US08492582B2
To a solution mixture of the obtained methyl 2-(2-(benzyloxy)-5-(2-(4-(methylsulfonyl)piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate (0.085 g) in ethyl acetate (3.0 mL), methanol (1.5 mL), and dioxane (6.0 mL), 10% palladium-carbon (0.085 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration to obtain 0.063 g of methyl 2-(2-hydroxy-5-(2-(4-(methylsulfonyl)piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate as a light yellow solid.

reactant | methyl 2-(2-(benzyloxy)-5-(2-(4-(methylsulfonyl)piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.085 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCN(CC1)S(=O)(=O)C | C35H37N3O7S
reactant | dioxane | 6.0 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 3.0 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1.5 mL | CO | CH4O
catalyst | palladium-carbon | 0.085 g | [C].[Pd]
product | methyl 2-(2-hydroxy-5-(2-(4-(methylsulfonyl)piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.063 g | OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCN(CC1)S(=O)(=O)C | C28H31N3O7S
